US09227967B2
3H,4H,5H-Pyrrolo[3,2-d]pyrimidin-4-one
Ethyl 3-amino-1H-pyrrole-2-carboxylate hydrochloride (3.00 g, 15.7 mmol) was dissolved in EtOH (40 mL). Formamidine acetic acid salt (2.44 g, 23.5 mmol) was added and the reaction mixture was heated under reflux at 83° C. for 18 h. The reaction mixture was cooled to r.t. and the precipitate was collected by filtration, washed with EtOH and dried in vacuo to give the title compound as a beige solid (1.70 g, 80%). LCMS (ES+): 135.9 (M+H)+.

reactant | Ethyl 3-amino-1H-pyrrole-2-carboxylate hydrochloride | 15.7 mmol, 3.00 g | Cl.NC1=C(NC=C1)C(=O)OCC
reactant | Formamidine acetic acid salt | 23.5 mmol, 2.44 g | C(C)(=O)O.C(=N)N
solvent | EtOH | 40 mL | CCO | C2H6O
product | 3H,4H,5H-Pyrrolo[3,2-d]pyrimidin-4-one | 1.70 g, 80% | N1=CNC(C2=C1C=CN2)=O | C6H5N3O
